US07576221B2
Step A: Synthesis of tert-butyl (S)-1-((benzyloxy)carbonyl)-3-methoxypropan-2-ylcarbamate
To tert-butyl (S)-1-((benzyloxy)carbonyl)-3-hydroxypropan-2-ylcarbamate (1 eq.) in dichloromethane was added 2,6-di-t-butyl 4-methylpyridine (2.5 eq.) and trimethyloxonium tetrafluoroborate (1.25 eq.) at 0° C. The reaction mixture was gradually warm to room temperature and stirred overnight. The reaction mixture was diluted with dichloromethane and washed with cold satd. sodium bicarbonate, water, and brine and dried over sodium sulfate. Purification by silica gel chromatography (25% EtOAc/Hexane) provide pure product as a colorless viscous liquid.

reactant | tert-butyl (S)-1-((benzyloxy)carbonyl)-3-hydroxypropan-2-ylcarbamate | 1 eq. | C(C1=CC=CC=C1)OC(=O)C[C@@H](CO)NC(OC(C)(C)C)=O | C16H23NO5
reactant | 2,6-di-t-butyl 4-methylpyridine | 2.5 eq. | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | trimethyloxonium tetrafluoroborate | 1.25 eq. | F[B-](F)(F)F.C[O+](C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl (S)-1-((benzyloxy)carbonyl)-3-methoxypropan-2-ylcarbamate | C(C1=CC=CC=C1)OC(=O)C[C@@H](COC)NC(OC(C)(C)C)=O | C17H25NO5
